US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-5-phenyl-1,2,3,6-tetrahydropyridine
A mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (500 mg, 2.18 mmol) and 3-phenyl-pyridine (339 mg, 2.18 mmol) in xylene (2 ml) was refluxed for 4 h. After cooling, the solvent was decanted to give the crude oily pyridinium salt, which was dissolved in MeOH (5 ml). NaBH4 (330 mg, 4 eq) was added in small portions to the cooled mixture. After stirring for 2 h at RT, MeOH was evaporated, water was added and the mixture extracted with EtOAc. Drying (Na2SO4) and evaporation gave the crude product, which was purified by flash chromatography (heptane/EtOAc).

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 2.18 mmol, 500 mg | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 3-phenyl-pyridine | 2.18 mmol, 339 mg | C1(=CC=CC=C1)C=1C=NC=CC1 | C11H9N
reactant | NaBH4 | 330 mg, 4 eq | [BH4-].[Na+]
solvent | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | MeOH | 5 ml | CO | CH4O
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-5-phenyl-1,2,3,6-tetrahydropyridine | O1C(COC2=C1C=CC=C2)CN2CCC=C(C2)C2=CC=CC=C2 | C20H21NO2
